US05064649
(b) Diphenylmethyl 7β-Amino-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate
Diphenylmethyl 7β-phenylacetamido-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate (1.3 g), dissolved in dichloromethane (10 mls) was cooled to -20° C. under argon. N-methylmorpholine (0.5ml) followed by a solution of phosphorous pentachloride (0.561 g) in dichloromethane (15 mls) were then added. After ca 30 mins, i.r. analysis showed no starting material. Dry methanol (10 mls) was added in one portion very rapidly, and the solution allowed to warm to room temperature over 30 mins. Water (20 mls) was added and the mixture vigorously stirred for 20-30 mins. After washing and drying the organic phase, the crude product was purified by flash chromatography, eluting with 70 and 80% ethyl acetate/hexane. The title compound was obtained as a pale yellow solid, (0.563 g, 53%), νmax (CH2Cl2) 1780(s), 1720, 1600(w,br), 1560 and 1210cm-1 ; δH (CDCl3) 3.56 (2H,ABq,J18.7Hz), 4.93 (1H,d,J5.1Hz), 5.10 (1H,d,J5.1Hz), 6.39(1H,s), 6.88 (1H,s), 7.21 (10H,m), 7.46-7.68 (3H,m), and 7.87 (1H,d,J7.6Hz); [mass spectrum: +ve ion (3-NOBA, Na+) M Na+, 532].

reactant | Diphenylmethyl 7β-phenylacetamido-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate | 1.3 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)/C=C\2/OC(=O)C3=CC=CC=C23)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C37H28N2O6S
reactant | N-methylmorpholine | 0.5ml | CN1CCOCC1 | C5H11NO
reactant | phosphorous pentachloride | 0.561 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 10 mls | CO | CH4O
solvent | dichloromethane | 10 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mls | ClCCl | CH2Cl2
solvent | Water | 20 mls | O | H2O
product | Diphenylmethyl 7β-Amino-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)/C=C\2/OC(=O)C3=CC=CC=C23)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H22N2O5S
